US07420001B2
To 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester (0.5 g, 2.27 mmol) was added 5 mL of carbon tetrachloride, carbon tetrachloride, and the mixture was cooled with an ethanol/ice bath while 1 equivalent of N-chlorosuccinimide was added in small portions. After stirring at −10° C. for 3 h, the reaction mixture was filtered and the filtrate was loaded onto a silica gel column. Chromatography gave 190 mg (30% yield) of 5,7-dichloro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester as an off-white solid.

reactant | 4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 2.27 mmol, 0.5 g | C(C)OC(=O)C=1OC2=C(C1C)C(=CC=C2)O | C12H12O4
reactant | N-chlorosuccinimide | 1 equivalent | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | carbon tetrachloride | 5 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5,7-dichloro-4-hydroxy-3-methyl-benzofuran-2-carboxylic acid ethyl ester | 190 mg, 30% yield | C(C)OC(=O)C=1OC2=C(C1C)C(=C(C=C2Cl)Cl)O | C12H10Cl2O4
